US07964580B2
To a solution of 3′,5′-dibenzoyl-2′-Deoxy-2′-fluoro-2′-C-methyluridine (1.5 g, 1 eq) in MeOH (10 mL) was added a solution of saturated ammonia in MeOH (20 mL). The reaction mixture was stirred at 0° C. for 30 min, and then warmed to room temperature slowly. After the reaction mixture was stirred for another 18 hours, the reaction mixture was evaporated under reduced pressure to give the residue, which was purified by column chromatography to afford pure compound 2′-deoxy-2′-fluoro-2′-C-methyluridine (500 mg, Yield: 60 %).

reactant | 3′,5′-dibenzoyl-2′-Deoxy-2′-fluoro-2′-C-methyluridine | 1.5 g, 1 eq | C(C1=CC=CC=C1)(=O)[C@@]1([C@@]([C@@H](O[C@@H]1C(O)C(C1=CC=CC=C1)=O)N1C(=O)NC(=O)C=C1)(C)F)O | C24H21FN2O7
reactant | ammonia | N | H3N
solvent | MeOH | 10 mL | CO | CH4O
solvent | MeOH | 20 mL | CO | CH4O
product | 2′-deoxy-2′-fluoro-2′-C-methyluridine | 500 mg, Yield: 60 % | F[C@]1([C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1)C | C10H13FN2O5
